US04048311
2-Aminoethane-N-t-butylsulfonamide hydrochloride (1.25 g., 5.78 mmol.) was added to a solution of 1.17 g. (11.56 mmol.) of triethylamine in 20 ml. of ethanol. Carbon disulfide (0.44 g., 5.78 mmol.) was added, the mixture was stirred at 25° for 1.5 hours, then 0.82 g. (5.78 mmol.) of methyl iodide in 5 ml. of ethanol was added and the resulting mixture was stirred for 1.5 hours. The mixture was evaporated to dryness and the residue was dissolved in water and acidified to pH 2.0 with dilute hydrochloric acid. The aqueous mixture was extracted with ethyl acetate and the extract was dried (MgSO4) and evaporated to dryness to give methyl 2-(N-t-butylsulfamoyl)ethyldithiocarbamate.

reactant | 2-Aminoethane N-t-butylsulfonamide hydrochloride | 5.78 mmol, 1.25 g | NCC.Cl.C(C)(C)(C)NS(=O)=O
reactant | triethylamine | 11.56 mmol | C(C)N(CC)CC | C6H15N
reactant | Carbon disulfide | 5.78 mmol, 0.44 g | C(=S)=S | CS2
reactant | methyl iodide | 5.78 mmol | CI | CH3I
solvent | ethanol | C(C)O | C2H6O
product | methyl 2-(N-t-butylsulfamoyl)ethyldithiocarbamate | C(C)(C)(C)NS(=O)(=O)CCNC(SC)=S | C8H18N2O2S3
